US07022707B2
(R)-2-Ethyl-piperazine-1-carboxylic acid 4-cyclopropylmethoxy-2,6-difluoro-benzyl ester
(R)-2-Ethyl-piperazine-1,4-dicarboxylic acid 4-tert-butyl ester 1-(4-cyclopropylmethoxy-2,6-difluoro-benzyl) ester (400 mg) was dissolved in methanol (5 mL), 1100 μL 4 N HCl in dioxane was added and the mixture was stirred for 18 h at room temperature. The mixture was made alkaline with 2 N NaOH and eluted with ethylacetate over a column containing 10 g ChemElut CE1010. The filtrate was collected, solvent was evaporated to give a yellowish oil (237 mg). This residue was purified by column chromatography (silica gel; dichloromethane/methanol gradient) to yield 186 mg (59%) of the product as a colorless oil. MS (ISP): 355.4 (M+H)+.

reactant | (R)-2-Ethyl-piperazine-1,4-dicarboxylic acid 4-tert-butyl ester 1-(4-cyclopropylmethoxy-2,6-difluoro-benzyl) ester | 400 mg | C1(CC1)COC1=CC(=C(COC(=O)N2[C@@H](CN(CC2)C(=O)OC(C)(C)C)CC)C(=C1)F)F | C23H32F2N2O5
reactant | HCl | 4 N, 1100 μL | Cl | ClH
reactant | NaOH | 2 N | [OH-].[Na+]
solvent | methanol | 5 mL | CO | CH4O
solvent | dioxane | O1CCOCC1 | C4H8O2
product | (R)-2-Ethyl-piperazine-1-carboxylic acid 4-cyclopropylmethoxy-2,6-difluoro-benzyl ester | 237 mg | C1(CC1)COC1=CC(=C(COC(=O)N2[C@@H](CNCC2)CC)C(=C1)F)F | C18H24F2N2O3
